US06071927
(2S,3R)-Ethyl 3-(1-tert-Butoxycarbonyl-3-hydroxy-2-phenylpiperidin-3-yl)propynoate
n-Butyl lithium (2.28 ml, 1.6M solution in hexanes, 3.64 mmol) was added slowly to a cooled (-78° C.) solution of ethyl propiolate (0.370 ml, 3.64 mmol) in tetrahydrofuran (10 ml). the soluton was stirred for 10 min. at -78° C. after addition was complete then (2S)-1-tert-butoxycarbonyl-2-phenylpiperidin-3-one (Description 1, 1,0 g, 3.64 mmol) in tetrahydrofuran (10 ml) was added, the temperature being maintained below -75° C. The mixture was stirred for a further 10 min, then warmed to -60° C. when glacial acetic acid (1 ml) was added. The mixture was warmed to room temperature and poured into saturated aqueous sodium hydrogen carbonate (20 ml). The organic phase was separated and the aqueous phase was extracted with ethyl acetate (20 ml). The combined organic fractions were dried (Na2SO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with hexane/EtOAc (90:10), to give the title compound as a gum (801 mg, 59%), 1H NMR (250 MHz, CDCl3) δ7.50 (2H, m), 7.35 (3H, m), 5.49 (1H, s), 4.25 (2H, q, J 7.12 Hz), 4.15 (1H, m), 3.02 (1H, m), 2.23 (2H, m), 2.00 (2H, m), 1.78 (1H, m), 1.37 (9H, s), and 1.29 (3H, t, J 7.12 Hz), m/z (ES+) 374 (M+1).

reactant | n-Butyl lithium | 3.64 mmol, 1.6M, 2.28 ml | C(CCC)[Li]
reactant | ethyl propiolate | 3.64 mmol, 0.370 ml | C(C#C)(=O)OCC | C5H6O2
reactant | (2S)-1-tert-butoxycarbonyl-2-phenylpiperidin-3-one | 3.64 mmol, 1,0 g | C(C)(C)(C)OC(=O)N1[C@H](C(CCC1)=O)C1=CC=CC=C1 | C16H21NO3
reactant | sodium hydrogen carbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | (2S,3R)-Ethyl 3-(1-tert-Butoxycarbonyl-3-hydroxy-2-phenylpiperidin-3-yl)propynoate | 801 mg, 59% | C(C)(C)(C)OC(=O)N1[C@H]([C@](CCC1)(O)C#CC(=O)OCC)C1=CC=CC=C1 | C21H27NO5
